US04011319
Following the procedure of Example 7, 9.7 g. of sodium hydride, 38 g. of trimethylsulfonium iodide and 25.2 g. (0.185 mol) of o-methoxybenzaldehyde are reacted to give o-methoxystyrene oxide.

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylsulfonium iodide | [I-].C[S+](C)C
reactant | o-methoxybenzaldehyde | 0.185 mol | COC1=C(C=O)C=CC=C1 | C8H8O2
product | o-methoxystyrene oxide | COC1=C(C2CO2)C=CC=C1 | C9H10O2
